*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.004


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
*-- p/g port #: 16/16
+nd_1_0_1000_500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_500 0 0.00441502
id_0_0_0_1 nd_1_0_3000_500 0 0.000633364
id_0_0_0_2 nd_1_0_5000_500 0 0.0121043
id_0_0_0_3 nd_1_0_7000_500 0 0.00347913
id_0_0_0_4 nd_1_0_9000_500 0 0.00829625
id_0_0_0_5 nd_1_0_1000_1500 0 0.00449705
id_0_0_0_6 nd_1_0_3000_1500 0 0.00932471
id_0_0_0_7 nd_1_0_5000_1500 0 0.000715465
id_0_0_0_8 nd_1_0_7000_1500 0 0.0122162
id_0_0_0_9 nd_1_0_9000_1500 0 0.00837461
id_0_0_0_10 nd_1_0_1000_2500 0 0.00647441
id_0_0_0_11 nd_1_0_3000_2500 0 0.00458236
id_0_0_0_12 nd_1_0_5000_2500 0 0.00271073
id_0_0_0_13 nd_1_0_7000_2500 0 0.0123011
id_0_0_0_14 nd_1_0_9000_2500 0 0.0104617
id_0_0_0_15 nd_1_0_1000_3500 0 0.00182384
id_0_0_0_16 nd_1_0_3000_3500 0 0.0114554
id_0_0_0_17 nd_1_0_5000_3500 0 0.00955598
id_0_0_0_18 nd_1_0_7000_3500 0 0.000958053
id_0_0_0_19 nd_1_0_9000_3500 0 0.0125259
id_0_0_0_20 nd_1_0_1000_4500 0 0.00866411
id_0_0_0_21 nd_1_0_3000_4500 0 0.00675956
id_0_0_0_22 nd_1_0_5000_4500 0 0.0115553
id_0_0_0_23 nd_1_0_7000_4500 0 0.00290041
id_0_0_0_24 nd_1_0_9000_4500 0 0.0125589
id_0_0_0_25 nd_1_0_1000_5500 0 0.0106829
id_0_0_0_26 nd_1_0_3000_5500 0 0.00875447
id_0_0_0_27 nd_1_0_5000_5500 0 9.45468e-05
id_0_0_0_28 nd_1_0_7000_5500 0 0.00981028
id_0_0_0_29 nd_1_0_9000_5500 0 0.0011698
id_0_0_0_30 nd_1_0_1000_6500 0 0.00596896
id_0_0_0_31 nd_1_0_3000_6500 0 0.00890299
id_0_0_0_32 nd_1_0_5000_6500 0 0.00695953
id_0_0_0_33 nd_1_0_7000_6500 0 0.0117839
id_0_0_0_34 nd_1_0_9000_6500 0 0.00990377
id_0_0_0_35 nd_1_0_1000_7500 0 0.00604552
id_0_0_0_36 nd_1_0_3000_7500 0 0.00420728
id_0_0_0_37 nd_1_0_5000_7500 0 0.00226271
id_0_0_0_38 nd_1_0_7000_7500 0 0.000418865
id_0_0_0_39 nd_1_0_9000_7500 0 0.0100443
id_0_0_0_40 nd_1_0_1000_8500 0 0.00812342
id_0_0_0_41 nd_1_0_3000_8500 0 0.0129355
id_0_0_0_42 nd_1_0_5000_8500 0 0.0109816
id_0_0_0_43 nd_1_0_7000_8500 0 0.000527957
id_0_0_0_44 nd_1_0_9000_8500 0 0.00532833
id_0_0_0_45 nd_1_0_1000_9500 0 0.0033504
id_0_0_0_46 nd_1_0_3000_9500 0 0.00816132
id_0_0_0_47 nd_1_0_5000_9500 0 0.00442806
id_0_0_0_48 nd_1_0_7000_9500 0 0.00250418
id_0_0_0_49 nd_1_0_9000_9500 0 0.000639043

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val158'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val159'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val160'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val161'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val162'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val163'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val164'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val165'
rd_add0 nd0 0 'esr37'
rd_add1 nd1 0 'esr38'
rd_add2 nd2 0 'esr39'
rd_add3 nd3 0 'esr40'
rd_add4 nd4 0 'esr41'
rd_add5 nd5 0 'esr42'
rd_add6 nd6 0 'esr43'
rd_add7 nd7 0 'esr44'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001

.ends chiplet5
